US08012976B2
A mixture of 8-(3-(diethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (90 mg, 0.21 mmol) in 3N hydrochloric acid (10 mL) was stirred at room temperature for 3 hr. Then the mixture was neutralized with potassium carbonate. The resulting suspension was filtered to give 3-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (40 mg, yield 50%) as a light yellow solid. 1H-NMR (400 MHz, CDCl3) δ (ppm): 4.24 (d, J=7.6 Hz, 1H), 4.77 (d, J=7.6 Hz, 1H), 4.85 (brs, 1H), 7.01-7.03 (m, 2H), 7.08-7.10 (m, 1H), 7.21-7.24 (m, 3H), 7.37-7.39 (m, 2H), 7.61-7.65 (m, 1H), 7.74-7.75 (m, 2H), 7.79-7.81 (m, 1H), 9.59 (brs, 1H), 9.92 (s, 1H). LC-MS (ESI) m/z: 368 (M+1)+.

reactant | 8-(3-(diethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 0.21 mmol, 90 mg | C(C)OC(C=1C=C(C=CC1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1)OCC | C27H27N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 3N, 10 mL | Cl | ClH
product | 3-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 40 mg, yield 50% | O=C1NN=C2C=3C(=CC=CC13)NC(C2C2=CC=CC=C2)C=2C=C(C=O)C=CC2 | C23H17N3O2
